US04492692
A solution of 2-fluoro-4-(3-methanesulphonyloxypropyl)-1-triphenylmethylimidazole in MeOH was treated with sodium metal and stirred at 65°. Work-up as for the starting material of Example 9 gave 2-fluoro-4-(3-methoxypropyl)-1-triphenylmethylimidazole, having the following n.m.r. in CDCl3 : 1.87 (m, 2H); 2.45 (t, 2H); 3.26 (s, 3H); 3.33 (t, 2H); 6.21 (s, 1H); 7.0-7.5 (m, 15H).

reactant | 2-fluoro-4-(3-methanesulphonyloxypropyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCCOS(=O)(=O)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25FN2O3S
reactant | sodium | [Na] | Na
reactant | MeOH | CO | CH4O
product | 2-fluoro-4-(3-methoxypropyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCCOC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25FN2O
